US07169777B2
Step I: Preparation of 4-(1-Cyano-2-cyclohexyl-ethyl)-piperazine-1-carboxylic acid tert-butyl ester
A solution of cyclohexaneacetaldehyde (8.45 g, 66.96 mmol) and TMSCN (17.9 mL, 133.92 mmol) in MeOH was stirred for 2 h at 23° C. and N-BOC-piperazine (13.72 g, 73.66 mmol) was added. After 24 the solvent was evaporated to give the title compound.

reactant | cyclohexaneacetaldehyde | 66.96 mmol, 8.45 g | C1(CCCCC1)CC=O | C8H14O
reactant | TMSCN | 133.92 mmol, 17.9 mL | [Si](C)(C)(C)C#N | C4H9NSi
reactant | N-BOC-piperazine | 73.66 mmol, 13.72 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
solvent | MeOH | CO | CH4O
product | 4-(1-Cyano-2-cyclohexyl-ethyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(CC1CCCCC1)C#N | C18H31N3O2
